US05025031
Sulfamic acid 2-(2-chlorophenoxy)ethyl ester
The title compound was obtained using the following procedure: The sulfamoyl chloride solution prepared in (a) was reacted as in Example 4 with 17.3 g (0.100 mole) of 2-(2-chlorophenoxy)ethanol and 40.4 g (0.400 mole) of triethylamine in 100 ml of acetonitrile followed by extraction, washing and concentration procedures of Example 4 through the first evaporation. The viscous, oily residue was partitioned between 500 ml of water and 500 ml of ethyl ether. The organic layer was washed with four 300 ml portions of water (pH of wash finally neutral to pH paper), dried over magnesium sulfate and the solvent evaporated under reduced pressure to give a white solid. The solid was recrystallized from ethyl ether-petroleum ether (bp 30°-60° C.) to give 14.5 g (58%) of title compound as white solid, mp 84.5°-86° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(2-chlorophenoxy)ethanol | 0.100 mole, 17.3 g | ClC1=C(OCCO)C=CC=C1 | C8H9ClO2
reactant | triethylamine | 0.400 mole, 40.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Sulfamic acid 2-(2-chlorophenoxy)ethyl ester | 14.5 g, 58% | ClC1=C(OCCOS(N)(=O)=O)C=CC=C1 | C8H10ClNO4S
